US04872902
H.1.1. N-isopropyl-N'-(3,5-dihydroxyphenyl)-urea
52 ml (0.53 mole) of isopropyl isocyanate are added dropwise over a period of 20 minutes to a solution of 62.5 g (0.5 mole) of 5-aminoresorcinol in 1000 ml of dioxan, the internal temperature rising to 35° C. The whole is subsequently stirred for 5 hours at room temperature and then 1000 ml of petroleum ether are added whereupon the title compound is precipitated in the form of fine crystals.

reactant | isopropyl isocyanate | 0.53 mole, 52 ml | C(C)(C)N=C=O | C4H7NO
reactant | 5-aminoresorcinol | 0.5 mole, 62.5 g | NC=1C=C(C=C(O)C1)O | C6H7NO2
solvent | dioxan | 1000 ml | O1CCOCC1 | C4H8O2
product | N-isopropyl-N'-(3,5-dihydroxyphenyl)-urea | C(C)(C)NC(=O)NC1=CC(=CC(=C1)O)O | C10H14N2O3
